### ISSUE TITLE
`simp only` fails on example that works in Lean 3

### ISSUE THREAD

**Issue by dwrensha** [leanprover/lean4#1549]
In Lean 3, this example proof works:

```lean
theorem not_mem_nil (a : nat) : ¬ (a ∈ ([] : list nat)) := id

theorem forall_prop_of_false {p : Prop} {q : p → Prop} (hn : ¬ p) :
  (∀ h' : p, q h') ↔ true := sorry

example (R : nat → Prop) : (∀ (a' : nat), a' ∈ ([]: list nat) → R a') :=
begin
  simp only [forall_prop_of_false (not_mem_nil _)],
  exact λ n , true.intro
end
```

However, after translation into Lean 4, the example proof fails at the `simp only` step:
```lean
theorem not_mem_nil (a : Nat) : ¬ a ∈ [] := fun x => nomatch x

theorem forall_prop_of_false {p : Prop} {q : p → Prop} (hn : ¬ p) :
  (∀ h' : p, q h') ↔ True := sorry

example (R : Nat → Prop) : (∀ (a' : Nat), a' ∈ [] → R a') := by
  simp only [forall_prop_of_false (not_mem_nil _)]
  -- (fails to simplify)

  sorry
```

### Lean Version

`leanprover/lean4:nightly-2022-08-27`

**Comment by dwrensha** [comment]
@gebner discovered today that the Lean4 version can be made to work by adding some type annotations like this:

```
example (R : Nat → Prop) : (∀ (a' : Nat), a' ∈ [] → R a') := by
  simp only [(forall_prop_of_false (not_mem_nil _): ((_ → _) ↔ _ ))]
  exact λ _ => True.intro

```
